US08242175B2
A mixture of 3-chloro-5-fluoro-benzonitrile (1 g, 6.45 mmol), 1-methyl-piperazine (0.715 ml, 6.45 mmol), and K2CO3 (2.64 g, 19.3 mmol) in DMF (5 ml) was heated to 140° C. for 40 min in a microwave apparatus. The resulting slurry was filtered and the solvent was removed in vacuo to give 1 g of 3-chloro-5-(4-methyl-piperazin-1-yl)-benzonitrile. The crude reaction mixture was used in the next step without any further purification.

reactant | 3-chloro-5-fluoro-benzonitrile | 6.45 mmol, 1 g | ClC=1C=C(C#N)C=C(C1)F | C7H3ClFN
reactant | 1-methyl-piperazine | 6.45 mmol, 0.715 ml | CN1CCNCC1 | C5H12N2
reactant | K2CO3 | 19.3 mmol, 2.64 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 3-chloro-5-(4-methyl-piperazin-1-yl)-benzonitrile | 1 g | ClC=1C=C(C#N)C=C(C1)N1CCN(CC1)C | C12H14ClN3
